US05250522
(S)-3-(Biphenyl-4-yl)-2-[(dimethylphosphonomethyl)-amino]-propionic acid methyl ester (5 g, 13.2 mmol) is dissolved in methanol (60 mL) and cooled to 0°. 1N Sodium hydroxide (19.8 mL, 19.8 mmol) is added dropwise. The solution is stirred at room temperature for 4 hours, then neutralized with 1N hydrochloric acid (20.2 mL, 20.2 mmol). The solvent is removed in vacuo at 10° from the gelatinous solution. The residue is extracted with methylene chloride (3×20 mL). The combined organic layers are washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The crude solid is triturated with acetonitrile, filtered and washed with ether. (S)-3-(Biphenyl-4-yl)-2-[(dimethylphosphonomethyl)-amino]-propionic acid is obtained as a white solid that is dried under vacuum at 60° for 16 hours, [α]D =+77.34 (c 0.83, MeOH).

reactant | (S)-3-(Biphenyl-4-yl)-2-[(dimethylphosphonomethyl)-amino]-propionic acid methyl ester | 13.2 mmol, 5 g | COC([C@H](CC1=CC=C(C=C1)C1=CC=CC=C1)NCP(=O)(OC)OC)=O | C19H24NO5P
reactant | Sodium hydroxide | 19.8 mmol, 1N, 19.8 mL | [OH-].[Na+]
reactant | hydrochloric acid | 20.2 mmol, 1N, 20.2 mL | Cl | ClH
solvent | methanol | 60 mL | CO | CH4O
product | (S)-3-(Biphenyl-4-yl)-2-[(dimethylphosphonomethyl)-amino]-propionic acid | C1(=CC=C(C=C1)C[C@@H](C(=O)O)NCP(=O)(OC)OC)C1=CC=CC=C1 | C18H22NO5P
